US07449466B2
4-[4-(3-Cyclohexylpropyl)piperazin-1-yl]-2-fluorophenol hydrochloride (1.45 g) was suspended in ethyl acetate, and to which saturated aqueous sodium hydrogencarbonate solution and 2 grains of sodium hydroxide were added by the order stated, to effect distribution. The ethyl acetate layer was washed with saturated saline solution, dried over anhydrous magnesium sulfate, and the solvent was distilled off. Purifying the resulting crude product on silica gel column chromatography (eluent, chloroform: methanol=10:1), 4-[4-(3-cyclohexylpropyl)piperazin-1-yl]-2-fluorophenol (910 mg) was obtained.

reactant | 4-[4-(3-Cyclohexylpropyl)piperazin-1-yl]-2-fluorophenol hydrochloride | 1.45 g | Cl.C1(CCCCC1)CCCN1CCN(CC1)C1=CC(=C(C=C1)O)F
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[4-(3-cyclohexylpropyl)piperazin-1-yl]-2-fluorophenol | 910 mg | C1(CCCCC1)CCCN1CCN(CC1)C1=CC(=C(C=C1)O)F | C19H29FN2O
